US06703422B2
A solution of 2-(6-bromo-2,2-dimethyl-hexyloxy)-tetrahydro-pyran (14.9 g, 50.8 mmol) in ethanol (100 ml) was added dropwise over 30 min to a solution of sodium sulfide nonahydrate (6.10 g, 25.41 mmol) in water (10 ml) at rt under N2 atmosphere. The reaction mixture was stirred at rt for 18 h and then heated to reflux for 3.5 h. The solution was concentrated in vacuo, 5% NaOH (100 ml) was added, and the reaction mixture was extracted with CH2Cl2 (200 ml). The organic layer was dried over MgSO4, concentrated in vacuo, and dried in high vacuo to give bis-(5,5-dimethyl-6-tetrahydropyranyloxy-hexyl)-sulfide (9.17 g, 78%) as a slightly yellowish oil. 1H NMR (300 MHz, CDCl3), d (ppm): 4.54 (t, 2H, J=2.9); 3.83 (m, 2H); 3.48 (m, 2H); 3.45 (d, 2H, J=9.2); 2.98 (d, 2H, J=9.2); 2.50 (t, 4H, J=7.3); 1.82 (m, 2H); 1.75-1.44 (m, 16H); 1.42-1.18 (m, 10H); 0.894 (s, 6H); 0.887 (s, 6H). 13C NMR (75 MHz, CDCl3), d (ppm): 98.90; 76.26; 61.68; 38.77; 34.04; 32.00; 30.51; 25.44; 24.42; 24.36; 23.20; 19.28. Calcd. for C26H51SO4: 459.3508, found 459.3504.

reactant | 2-(6-bromo-2,2-dimethyl-hexyloxy)-tetrahydro-pyran | 50.8 mmol, 14.9 g | BrCCCCC(COC1OCCCC1)(C)C | C13H25BrO2
reactant | sodium sulfide nonahydrate | 25.41 mmol, 6.10 g | O.O.O.O.O.O.O.O.O.[S-2].[Na+].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | 10 ml | O | H2O
product | bis-(5,5-dimethyl-6-tetrahydropyranyloxy-hexyl)-sulfide | 9.17 g, 78% | CC(CCCCSCCCCC(COC1OCCCC1)(C)C)(COC1OCCCC1)C | C26H50O4S
